US08378095B2
Step a—ethyl 5-(4-bromophenyl)oxazole-4-carboxylate
Prepared from 4-bromobenzoyl chloride according to the procedure outlined for ethyl 5-(4-methoxyphenyl)oxazole-4-carboxylate in example M-1. 1H NMR (DMSO) δ 1.42 (3H, t), 4.42 (2H, q), 7.61 (2H, d), 7.92 (1H, s), 7.99 (2H, d). LCMS (1) Rt: 2.10 min; m/z (ES+) 268/270 MH+-Et.

reactant | 4-bromobenzoyl chloride | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | ethyl 5-(4-methoxyphenyl)oxazole-4-carboxylate | COC1=CC=C(C=C1)C1=C(N=CO1)C(=O)OCC | C13H13NO4
product | a—ethyl 5-(4-bromophenyl)oxazole-4-carboxylate | BrC1=CC=C(C=C1)C1=C(N=CO1)C(=O)OCC | C12H10BrNO3
